US07700641B2
C. Synthesis of tert-butyl-(2-chloromethyl-5-trifluoromethylthiophen-3-yloxy)dimethylsilane
To a solution of [3-(tert-butyldimethylsilanyloxy)-5-trifluoromethylthiophen-2-yl]methanol in anhydrous dichloromethane (100 mL) was added triethylamine (4.05 g, 40.0 mmol) followed by thionyl chloride (2.38 g, 20.0 mmol) at 0° C. The reaction mixture was stirred for 30 min and quenched with water (50.0 mL). After separation, the organic layer was washed with water (3×50.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography eluting with hexane to afford the title compound (2.31 g, 70%) as a yellow oil, which was directly used.

reactant | [3-(tert-butyldimethylsilanyloxy)-5-trifluoromethylthiophen-2-yl]methanol | [Si](C)(C)(C(C)(C)C)OC1=C(SC(=C1)C(F)(F)F)CO | C12H19F3O2SSi
reactant | triethylamine | 40.0 mmol, 4.05 g | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 20.0 mmol, 2.38 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-butyl-(2-chloromethyl-5-trifluoromethylthiophen-3-yloxy)dimethylsilane | 2.31 g, 70% | C(C)(C)(C)[Si](C)(C)OC1=C(SC(=C1)C(F)(F)F)CCl | C12H18ClF3OSSi
